US05589502
To a solution of 2.97 g of methyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-(p-toluenesulfonyloxy)propionate in 50 ml of acetonitrile are added 10.86 ml of water and 3.96 g of potassium carbonate successively at room temperature. Then, the reaction mixture is stirred at 50° C. for 2 days. The reaction mixture is cooled to room temperature, and insoluble materials are removed by filtration. The filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; diethylether) to give methyl (2R,3R)-3-cyclopropyl-2,3-epoxypropionate quantitatively.

reactant | methyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-(p-toluenesulfonyloxy)propionate | 2.97 g | C1(CC1)[C@H]([C@@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)O | C14H18O6S
reactant | water | 10.86 ml | O | H2O
reactant | potassium carbonate | 3.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl (2R,3R)-3-cyclopropyl-2,3-epoxypropionate | C1(CC1)[C@@H]1[C@H](C(=O)OC)O1 | C7H10O3
